US04695572
A mixture of 46.0 g of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxyisoindolin-1-one, 78 g of t-butyloxycarbonylmethylenetriphenylphosphorane and 800 ml of toluene was refluxed for 5 hours. The mixture was concentrated and the residue was purified by silica gel column chromatography (dichloromethane-ethyl acetate) to give 54.5 g of t-butyl 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxoisoindoline-1-acetate. Recrystallization from toluene-ether gave colorless crystals melting at 210°-211° C.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxyisoindolin-1-one | 46.0 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10ClN3O2
reactant | t-butyloxycarbonylmethylenetriphenylphosphorane | 78 g | C(C)(C)(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25O2P
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | t-butyl 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxoisoindoline-1-acetate | 54.5 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1=O)CC(=O)OC(C)(C)C | C22H20ClN3O3
